US08802659B2
1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-ethanone
To a solution of 2-Bromo-6-(4-tert-butyl-cyclohexyloxy)-naphthalene (5 g, 0.01 mol) in 15 mL dry THF stirring at −78° C., was added 2.0 M of n-Butyllithium in hexane (8.3 mL, 0.017 mol) dropwise. The reaction was then stirred at −78° C. for 15 minutes, yellow color results. N-Methoxy-N-methyl-acetamide (1.6 mL, 0.015 mol) in 5 mL THF was then added dropwise while the reaction was stirred at −78° C. (r×n went colorless upon addition of B). Reaction was then quenched with water and extracted three times with ethyl ether. Organics were dried over MgSO4, filtered, and concentrated to dryness under reduced pressure. Material was purified via column chromatography using a gradient of 0-10% EtOAC/Hexanes (ran neat hexanes for 5 min to elute desbromo SM) on 125 g of SiO2 to give the title compound as a white solid.

reactant | 2-Bromo-6-(4-tert-butyl-cyclohexyloxy)-naphthalene | 0.01 mol, 5 g | BrC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C | C20H25BrO
reactant | n-Butyllithium | 2.0 M | C(CCC)[Li]
reactant | hexane | 0.017 mol, 8.3 mL | CCCCCC | C6H14
reactant | N-Methoxy-N-methyl-acetamide | 0.015 mol, 1.6 mL | CON(C(C)=O)C | C4H9NO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-ethanone | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C(C)=O | C22H28O2
